US07709500B2
2,3-Dichloro-N-cyclopropyl-6-(piperidin-4-yloxy)benzenesulfonamide
tert-Butyl 4-[3,4-dichloro-2-(chlorosulfonyl)phenoxy]piperidine-1-carboxylate (0.70 g, 1.8 mmol) was dissolved in cyclopropylamine (8 ml) and stirred at room temperature for 30 min. The solution was concentrated in in vacuo and then azeotroped with toluene (4 times). The residue was redissolved in dichloromethane: trifluoroacetic acid/1:1 (20 ml) and stirred at room temperature for 15 min. The solution was concentrated in vacuo, then partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution. The aqueous was reextracted with ethyl acetate (4 times), and the combined organics dried over anhydrous potassium carbonate. Concentration in vacuo afforded the title compound as a white powder (0.70 g).

reactant | tert-Butyl 4-[3,4-dichloro-2-(chlorosulfonyl)phenoxy]piperidine-1-carboxylate | 1.8 mmol, 0.70 g | ClC=1C(=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1Cl)S(=O)(=O)Cl | C16H20Cl3NO5S
reactant | cyclopropylamine | 8 ml | C1(CC1)N | C3H7N
product | 2,3-Dichloro-N-cyclopropyl-6-(piperidin-4-yloxy)benzenesulfonamide | 0.70 g | ClC1=C(C(=CC=C1Cl)OC1CCNCC1)S(=O)(=O)NC1CC1 | C14H18Cl2N2O3S
